US09029487B2
Preparation of Intermediate, 3,6-bis(1,1-dimethylethyl)-9H-carbazole, (P1)
To a 500 mL three-necked round bottom flask equipped with an over head stirrer, nitrogen gas bubbler, and an addition funnel add 20.02 g (120.8 mmol) of carbazole, 49.82 g (365.5 mmol) of ZnCl2, and 300 mL of nitromethane at room temperature. To the resulting dark brown slurry add 49.82 g (365.5 mmol) of 2-chloro-2-methylpropane (also known as tertiary-butyl chloride or t-BuCl) dropwise from the addition funnel over the period of 2.5 hours. After completing the addition, stir the resulting slurry for an additional 18 hours. Pour the reaction mixture into 800 mL of ice cold water, extract with 3×500 mL methylene chloride, combine and dry the extracts with anhydrous magnesium sulfate, filter, and concentrate the filtrate first by rotary evaporation and then by evaporation under high vacuum to remove nitromethane. Dissolve the resulting residue first in hot methylene chloride (70 mL) followed by hot hexanes (50 mL), allow the resulting solution to cool to room temperature and then placed it in a refrigerator overnight. Isolate the solids formed and wash the isolated solids with cold hexanes and then place them under high vacuum to yield 10.80 g (32.0%) of (P1) as off white crystals.

reactant | carbazole | 120.8 mmol, 20.02 g | C1=CC=CC=2C3=CC=CC=C3NC12 | C12H9N
reactant | 2-chloro-2-methylpropane | 365.5 mmol, 49.82 g | ClC(C)(C)C | C4H9Cl
reactant | tertiary-butyl chloride | C(C)(C)(C)Cl | C4H9Cl
catalyst | ZnCl2 | 365.5 mmol, 49.82 g | [Cl-].[Cl-].[Zn+2]
solvent | nitromethane | 300 mL | [N+](=O)([O-])C | CH3NO2
product | 3,6-bis(1,1-dimethylethyl)-9H-carbazole | CC(C)(C)C=1C=CC=2NC3=CC=C(C=C3C2C1)C(C)(C)C | C20H25N
